Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"It was about 4 months ago." 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details surrounding the history and presentation, 
please see Dr. ___ initial consultation note dated 
___, Dr. ___ note dated ___ note and Dr. 
___ note dated ___. 

Briefly, this is a ___ year old unmarried man, currently a 
sophomore in ___, no prior suicide attempts or psychiatric 
hospitalizations, recently diagnosed with anxiety and panic 
disorder by his PCP, who presented to ___ ED from his PCP due 
to concerns for worsening depression, suicidal ideation with 
thoughts of jumping off a bridge. 

Per Dr. ___ initial consultation note (of note, 
patient declined an interpreter), patient reported suffering for 
intrusive thoughts for the past 6 weeks following a ritual in 
___ that his father "forced him" to undergo. Patient also 
reported that a recent suicide of a ___ celebrity have also 
caused him to think of suicide and described his suicidal 
ideation as impulsive, intrusive thoughts of driving into 
traffic or jumping off a bridge, which he is feeling less able 
to control. Reported he did not want to die, but that he thinks 
he may harm himself. Endorsed anxiety with racing thoughts. 

ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 

Patient was seen with Dr. ___ and ___ 
___, ___ with the aid of a ___ interpreter. Upon 
interview with the patient, who was able to provide a relatively 
clear and coherent history, he stated that approximately 2 
months ago he saw a "barefoot" doctor in ___ for a traditional 
treatment for anxiety/panic attacks upon the request of his 
father, whom he described as "superstitious." Stated that this 
"barefoot doctor" punctured his finger with an unclean, bloody 
needle and since then he had been suffering from worsening 
anxiety and been worried that he had contracted HIV. Stated he 
started taking Trazodone to help him sleep but had found it 
unhelpful. Noted that he was suffering from worsening anxiety 
with fear that "there was something wrong in my body that was 
making me feel anxious." Also noted that he had been suffering 
with panic attacks, including one that occurred while he was
driving, "I was afraid I would die and had a panic attack." 
Reportedly had to stop driving and take Ativan. In addition, 
patient noted some avoidant symptoms including avoidance of 
airplanes with fear and dread of having another panic attack. 

In this setting, patient reported he has also been having 
increasing concern about his health and had been having thoughts 
of "what it would be like if I had an accident-- would someone 
help me?" Denied suicidal ideation on my examination, stating, 
"I love my body, I don't to die." Reported feeling a "little 
depressed," but stated this was because his girlfriend had been 
increasingly worried and sad regarding his worsening anxiety 
symptoms. Stated he had been having some difficulty sleeping at 
bedtime while here but denied difficulties sleeping at home. 
Denied difficulties with concentration, energy, concentration, 
appetite. Denied suicidal ideation/homicidal ideation. 

On psychiatric review of systems, denied history of AVH,
paranoia, denied history of manic symptoms including decreased
need for sleep, increased impulsivity, harm to others. Denied
obsessive checking, cleaning. Denied alcohol or drug use. 
 
Past Medical History:
Past psychiatric history:
- Diagnoses: anxiety and panic disorder
- Hospitalizations: denies
- SA/SIB: denies/denies
- Medication Trials: Trazodone, buproprion, Ativan 
- Psychiatrist: none
- Therapist: none 

Past medical history: denies 

Allergies: Per OMR, NKDA
 
Social History:
___
Family History:
Family psychiatric history:
- Dx: father with symptoms of anxiety and depression
- SA: denies
- Addictions: denies 
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T: , BP: , HR: , R: , O2 sat: 100% on RA
General: Young man, well appearing, no acute distress.
Well-nourished, well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No wheezes, or rhonchi.
CV: RRR, no murmurs. 
Abdomen: +BS, soft, nontender
Extremities: No edema or calf tenderness.
Skin: No rashes, warm, dry

Neurological:
Cranial Nerves: grossly intact
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: full power ___ throughout. 
DTR: 2+, symmetrical 
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: ___ immediate, ___ delay recall
Fund of knowledge: consistent with education
Calculations: correctly states 7 quarters in $1.75
Abstraction: apple/orange = "fruits"
Speech: normal rate, volume, and tone
Language: Native ___ speaker, fairly fluent in
___ 

Mental Status:
Appearance: young, ___ year old man, wearing jeans and black
sweatshirt, well groomed, girlfriend at side, no apparent
distress, appears stated age
Behavior: Calm, cooperative, appropriate eye contact, no
psychomotor agitation or retardation, expresses many times that
he wants to leave and asking how he can leave
Mood and Affect: "a little depressed " / appropriate to
situation, congruent with mood, restricted 
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: fair/fair 
 
Brief Hospital Course:
LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___. At that time, the patient was not deemed to 
be at risk of harm to self/others and was discharged. On 
admission, they were placed on 15 minute checks status and 
remained on that level of observation throughout while being 
unit restricted. There were no acute behavioral episodes that 
required chemical/physical/mechanical restraints. 

PSYCHIATRIC:

Ms. ___ is a ___ year old unmarried ___ man, currently a 
sophomore in ___, no prior suicide attempts or psychiatric 
hospitalizations, recently diagnosed with anxiety and panic 
disorder by his PCP, who presented to ___ ED from his PCP's 
office due to concerns for worsening depression and suicidal 
ideation with thoughts of jumping off a bridge and driving into 
traffic. On admission, patient denied ever having suicidal 
ideation and plans and expressed that he became concerned and 
disclosed to his PCP that he was experiencing intrusive thoughts 
about being in accidents and hurting himself but he had no 
intention of going through with any of it. Given ___ 
reported history of a panic attack six months ago, anticipatory 
anxiety since then and avoidance of certain settings (e.g. 
airplanes) for fear of having another panic attack, severe 
anxiety over a traditional ___ ritual he had in ___ around 
two months ago that involved a soiled needle, and persistent 
anxiety over several aspects of his life, ___ presentation 
was most consistent with a generalized anxiety disorder and a 
likely panic disorder. ___ labs during this admission 
(i.e. CBC, BMP, LFTS, TSH, B12, and folate) were all within 
normal limits, making an anxiety disorder secondary to another 
medical condition less likely. He also denied any significant 
substance use and his serum/urine tox screens were negative 
making a substance-induced anxiety/mood disorder less likely as 
well. 

#) Anxiety disorder: GAD with likely panic disorder
On admission, patient was continued on home medications of 
bupropion XL 300 mg daily and trazodone 50 mg QHS. He was also 
started on lorazepam 1 mg Q4H PRN for anxiety (home dose had 
been 0.5-1 mg daily PRN), which he infrequently required. We 
discussed the risks and benefits of starting an SSRI, and the 
patient made the decision to not start an SSRI. He reported the 
the bupropion had been helpful in addressing his depression and 
anxiety, and he did not wish to have the dose increased. After a 
discussion of risks and benefits, ___ lorazepam was 
switched to diazepam 5 mg Q4H PRN for anxiety given rapid 
absorption. Prior to discharge, patient had infrequently 
required the diazepam and was discharged on diazepam 5 mg daily 
PRN for anxiety. Throughout admission, patient consistently 
denied any suicidal ideation/plans/intent and there were no 
reported self-injurious behaviors. Patient was agreeable to 
seeing a psychiatrist and therapist in the community in addition 
to continuing to follow-up with his PCP. Aside from referrals 
for a psychiatrist and therapist and a follow-up appointment 
with his PCP, ___ team also coordinated a school re-entry 
appointment with ___. 

MEDICAL:

#) No acute or chronic medical issues. ___ vital signs 
were taken per unit protocol and were consistently within normal 
limits. ___ labs during this admission (i.e. CBC, BMP, 
LFTS, TSH, B12, and folate) were all within normal limits. 
Patient has follow-up appointment appointment with PCP, who can 
follow-up with any additional necessary tests in the context of 
___ recent exposure to soiled needle around two months 
during a traditional ritual in ___. 

PSYCHOSOCIAL:

#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was frequently 
visible in the milieu reading or engaging with selective peers. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The team spoke with the ___ girlfriend. She confirmed that 
she lives with the patient and that he has never engaged in 
self-injurious behaviors or ever attempted suicide. She reported 
that she's never heard him make suicidal statements. She had no 
acute safety concerns prior to his discharge and picked him up 
from the unit on the day of discharge. 

#) INTERVENTIONS
- Medications: diazepam; continued on home medications of 
bupropion, trazodone, and lorazepam (which was then switched to 
diazepam)
- Psychotherapeutic interventions: individual, group, and milieu 
therapy
- Coordination of aftercare: referrals for psychiatrist and 
therapist, appointment with PCP, and ___ re-entry 
appointment

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to self based upon worsening anxiety and 
suicidal ideation. Their static factors noted at that time 
included gender, age, and mental illness. The modifiable risk 
factors addressed during this admission were severe anxiety 
through medication management and psychotherapeutic 
interventions as detailed above and lack of outpatient mental 
health treaters through referrals and outpatient appointments. 
Finally, the patient is being discharged with many protective 
risk factors, which include no prior suicide attempts or 
self-injurious behaviors, no current suicidal ideation, 
medication adherence, no concurrent substance use, educational 
background, social supports (living with girlfriend and in 
contact with family), fortified outpatient services and 
coordination of ___ re-entry appointment, and no access to 
weapons.  Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. TraZODone 50 mg PO QHS 
3. LORazepam 0.5-1 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  Diazepam 5 mg PO DAILY:PRN anxiety 
RX *diazepam 5 mg 1 by mouth once a day Disp #*14 Tablet 
Refills:*0 
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  TraZODone 50 mg PO QHS 
RX *trazodone 50 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Panic disorder
Generalized anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Discharge MSE:

Vitals: T 98, BP 103/65, HR 85, RR 16, O2sat 99% RA

A/B: Appears stated age, dressed in casual clothing, good 
hygiene
and grooming, calm, cooperative, good eye contact, no 
psychomotor agitation or retardation noted
S: normal rate, volume, prosody
M: 'good' 
A: euthymic, full range, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for severe anxiety and suicidal 
ideation.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___